US07851473B2
(1) tert-Butyl 4-(4-phenyl-1,3-oxazol-2-yl)piperazine-1-carboxylate
A solution of tert-butyl piperazine-1-carboxylate (1.21 g, 6.51 mmol) and 2-chloro-4-phenyl-1,3-oxazole (390 mg, 2.17 mmol) in xylene (50 ml) was stirred at 155° C. for 12 hours. The solvent was distilled off under reduced pressure. The residue was poured to water, and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=9:1) to give 260 mg (12.1%) of the desired product as a solid.

reactant | tert-butyl piperazine-1-carboxylate | 6.51 mmol, 1.21 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-chloro-4-phenyl-1,3-oxazole | 2.17 mmol, 390 mg | ClC=1OC=C(N1)C1=CC=CC=C1 | C9H6ClNO
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | tert-Butyl 4-(4-phenyl-1,3-oxazol-2-yl)piperazine-1-carboxylate | 260 mg, 12.1% | C1(=CC=CC=C1)C=1N=C(OC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O3
